US07777047B2
N-[2-(benzylthio)-3,3-dimethoxypropyl]-7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxamide
A mixture of 7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxylic acid (2.10 g), 2-(benzylthio)-3,3-dimethoxypropan-1-amine (1.30 g), 1H-1,2,3-benzotriazol-1-ol (730 mg), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (1.04 g) and N,N-dimethylformamide (50 mL) was stirred at room temperature for 15 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (1:4-1:9, volume ratio) to give the title compound (2.70 g, yield 87%) as a colorless amorphous solid.

reactant | 7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxylic acid | 2.10 g | CN(C=1C=C(C=C2C=C(NC12)C(=O)O)OCCCS(=O)(=O)C)S(=O)(=O)C1=NC=CC=C1 | C19H21N3O7S2
reactant | 2-(benzylthio)-3,3-dimethoxypropan-1-amine | 1.30 g | C(C1=CC=CC=C1)SC(CN)C(OC)OC | C12H19NO2S
reactant | 1H-1,2,3-benzotriazol-1-ol | 730 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 1.04 g | Cl.CN(CCCN=C=NCC)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | N-[2-(benzylthio)-3,3-dimethoxypropyl]-7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxamide | 2.70 g, yield 87% | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCCS(=O)(=O)C)N(S(=O)(=O)C1=NC=CC=C1)C)C(OC)OC | C31H38N4O8S3
